US03983124
To a solution of 23.6 g (0.142 mole) of fluorene and 50.0 g (0.35 mole) of 4-chlorobutyryl chloride in 1500 ml of methylene chloride chilled to -20°C., is added 39.8 g (0.298 mole) of aluminum chloride with rapid stirring. The reaction mixture is refluxed for 4 hours, stirred at room temperature for 16 hours and is poured onto an ice/concentrated HCl mixture. The organic layer is separated, washed with saturated sodium bicarbonate solution and dried over magnesium sulfate. The methylene chloride solution is filtered, evaporated to dryness, and the solid residue recrystallized from acetone to yield the desired 2,7-bis(4-chlorobutyryl)fluorene.

reactant | fluorene | 0.142 mole, 23.6 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 4-chlorobutyryl chloride | 0.35 mole, 50.0 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminum chloride | 0.298 mole, 39.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 1500 ml | C(Cl)Cl | CH2Cl2
product | 2,7-bis(4-chlorobutyryl)fluorene | ClCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCl)=O | C21H20Cl2O2
